US05922771
N-[2-(5-Methoxy-1H-inden-3-yl)ethyl]butyramide
Starting with 2-(6-methoxyindan-1-ylidene)ethylamine (hydrochloride) and butyryl chloride, the title compound was synthesized in otherwise the same manner as Example 15 (yield 65%).

reactant | 2-(6-methoxyindan-1-ylidene)ethylamine | COC1=CC=C2CCC(C2=C1)=CCN | C12H15NO
reactant | butyryl chloride | C(CCC)(=O)Cl | C4H7ClO
product | N-[2-(5-Methoxy-1H-inden-3-yl)ethyl]butyramide | COC=1C=C2C(=CCC2=CC1)CCNC(CCC)=O | C16H21NO2
